US08426411B2
To a solution of (S)-2-methyl-N-(2,2,2-trifluoro-1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)ethyl)propane-2-sulfinamide (1.40 g, 2.95 mmol) in MeOH (20 mL) was added HCl (4 N in 1,4-dioxane, 7.38 mL, 29.5 mmol). After about 2 h, the reaction mixture was partially concd in vacuo and diluted with Et2O until solids began to form. After about 30 min, the resulting solids were collected by filtration and dried in vacuo to provide 2,2,2-trifluoro-1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)ethanamine hydrochloride (0.840 g, 70%) as a solid. LC/MS (Table 1, Method a) Rt=2.16 min; MS m/z 371 (M+H)+.

reactant | (S)-2-methyl-N-(2,2,2-trifluoro-1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)ethyl)propane-2-sulfinamide | 2.95 mmol, 1.40 g | CC(C)(C)[S@](=O)NC(C(F)(F)F)C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C19H21F3N4O3S2
reactant | HCl | 29.5 mmol, 4 N, 7.38 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 2,2,2-trifluoro-1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)ethanamine hydrochloride | 0.840 g, 70% | Cl.FC(C(N)C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)(F)F | InChI=1S/C15H13F3N4O2S.ClH/c1-9-2-4-10(5-3-9)25(23,24)22-7-6-11-14(22)20-8-12(21-11)13(19)15(16,17)18;/h2-8,13H,19H2,1H3;1H
